US04096180
Preparation of 2-Methyl-3-Hydroxy-4-Hydroxymethyl-5-Fluoromethyl-Pyridine
Sulfur tetrafluoride (41 mg.-mole) is passed into 40 ml. of liquid HF, cooled in a dry-ice-acetone bath, then, acetonide of 2-methyl-3-hydroxy-4-hydroxymethyl-5-hydroxymethyl pyridine, (4.18 g.; 20 mg.-mole) is added under continuing cooling. The dry-ice-acetone bath is not replenished with dry-ice and the mixture is left standing in it overnight. After blowing off the remaining HF at room temperature, conc. aq. HCl is added, evaporated to dryness in vacuo, the residue is redissolved in 20 ml. of 1M aq. HCl, heated on the steam-bath for 15 minutes, (for hydrolysis of the acetonide, charcoaled and evaporated to dryness, redissolved in water, then passed through a Dowex 50 × 2 cation-exchange resin column, washed free of F⃝ with water.

reactant | Sulfur tetrafluoride | 41 mg | S(F)(F)(F)F | F4S
reactant | acetonide | [CH2-]C(=O)C
reactant | 2-methyl-3-hydroxy-4-hydroxymethyl-5-hydroxymethyl pyridine | CC1=NC=C(C(=C1O)CO)CO | C8H11NO3
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | dry-ice | C(=O)=O | CO2
reactant | HCl | Cl | ClH
product | 2-Methyl-3-Hydroxy-4-Hydroxymethyl-5-Fluoromethyl-Pyridine | CC1=NC=C(C(=C1O)CO)CF | C8H10FNO2
